US05679866
Aluminum chloride (14.67 g, 0.1 mol), 2,6-dichlorobenzoyl chloride (20.95 g, 0.1 mol) and a solution of 3,4,5-trimethoxytoluene (18.22 g, 0.1 mol) in dichloromethane (50 ml), are slowly and consecutively added to dichloromethane stirred at 0° C., stirred for 1 h at ice bath temperatures and for 16 h at room temperature, and poured into ice. The organic layer is separated, washed with dilute hydrochloric acid and water, dried, and, after addition of silica gel (100 g), concentrated in vacuo. A flash chromatography column is packed with silica gel (400 g) and the charged silica gel is layered on top of that. Elution with petrol ether/ethyl acetate (90/10, 1 l; 80/20, 1 l; 50/50, 1l) yields 2,6-dichloro-3'4'-dimethoxy-2'-hydroxy-6'-methylbenzophenone, 10.35 g, (30% y).

reactant | Aluminum chloride | 0.1 mol, 14.67 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,6-dichlorobenzoyl chloride | 0.1 mol, 20.95 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | 3,4,5-trimethoxytoluene | 0.1 mol, 18.22 g | COC=1C=C(C=C(C1OC)OC)C | C10H14O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,6-dichloro-3'4'-dimethoxy-2'-hydroxy-6'-methylbenzophenone | ClC1=C(C(=O)C2=C(C(=C(C=C2C)OC)OC)O)C(=CC=C1)Cl | C16H14Cl2O4
